US06770667B1
A suspension of 5-bromopyrimidine(1.52 g),2-methylphenylboronic acid (1.43 g), sodium carbonate (3.04 g) and 10% palladium on charcoal (50% wet, 0.85 g) was refluxed for 24 hours. The mixture was filtered and the filtrate was concentrated under reduced pressure. To the residue ethyl acetate was added and the mixture was washed with water and brine. The separated organic layer was dried over magnesium sulfate and evaporated under pressure to give 5-(2-methylphenyl)pyrimidine (1.61 g, 98.7%).

reactant | 5-bromopyrimidine | 1.52 g | BrC=1C=NC=NC1 | C4H3BrN2
reactant | 2-methylphenylboronic acid | 1.43 g | CC1=C(C=CC=C1)B(O)O | C7H9BO2
reactant | sodium carbonate | 3.04 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | palladium on charcoal | 0.85 g | [Pd] | Pd
product | 5-(2-methylphenyl)pyrimidine | 1.61 g, 98.7% | CC1=C(C=CC=C1)C=1C=NC=NC1 | C11H10N2
